Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
___ Cardiac Catheterization

attach
 
Pertinent Results:
ADMISSION LABS
=================

___ 06:39AM BLOOD WBC-8.6 RBC-4.58* Hgb-14.2 Hct-41.7 
MCV-91 MCH-31.0 MCHC-34.1 RDW-12.1 RDWSD-40.1 Plt ___
___ 06:38AM BLOOD Glucose-197* UreaN-19 Creat-1.1 Na-140 
K-5.0 Cl-102 HCO3-20* AnGap-18
___ 06:39AM BLOOD cTropnT-0.04*
___ 10:51AM BLOOD cTropnT-0.14*
___ 06:38AM BLOOD Cholest-162
___ 06:39AM BLOOD %HbA1c-6.5* eAG-140*
___ 06:38AM BLOOD Triglyc-173* HDL-41 CHOL/HD-4.0 
LDLcalc-86
___ 06:38AM BLOOD TSH-2.1

DISCHARGE EXAM
===============

==============
VITALS: 24 HR Data (last updated ___ @ 606)
    Temp: 98.5 (Tm 98.6), BP: 147/77 (119-147/72-86), HR: 85
(65-94), RR: 18 (___), O2 sat: 95% (94-98), O2 delivery: RA,
Wt: 169.6 lb/76.93 kg (___)  
Fluid Balance (last updated ___ @ 523) 
  Last 8 hours  Total cumulative -850ml
    IN: Total 0ml
    OUT:  Total 850ml, Urine Amt 850ml
  Last 24 hours  Total cumulative -570ml
    IN: Total 1380ml, PO Amt 580ml, IV Amt Infused 800ml
    OUT:  Total 1950ml, Urine Amt 1950ml  

Gen: in no acute distress
Eyes: NCAT, PEERL, EOMI, sclera anicteric without injection
Neck: No JVD, thyroid is normal in size. Carotids without 
bruits.

Cardiac: no rubs, regular rhythm, normal rate, audible s1 and 
s2,
no murmurs. PMI non-displaced. 
Lungs: CTAB, no increased WOB
Abdomen: soft, non-tender, non-distended. 
Ext: no edema, clubbing, cyanosis. 2+ pulses bilaterally. Right
radial bandage c/r/I. Extremities warm and well perfused. 
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.
PSYCH: appropriate mood and affect

DISCHARGE LABS
==============

___ 05:45AM BLOOD WBC-8.0 RBC-4.61 Hgb-14.3 Hct-41.8 MCV-91 
MCH-31.0 MCHC-34.2 RDW-12.3 RDWSD-40.4 Plt ___
___ 05:45AM BLOOD ___ PTT-28.8 ___
___ 05:45AM BLOOD Glucose-173* UreaN-12 Creat-1.1 Na-139 
K-4.4 Cl-100 HCO3-23 AnGap-16
___ 07:00PM BLOOD CK-MB-29* cTropnT-1.26*

REPORTS
=========
CATH ___
Coronary Description
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel trifurcates into the
Left Anterior Descending, Left Circumflex, and Ramus 
Intermedius.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a Medium caliber vessel.
There is a 70% stenosis in the mid to distal segment, the LAD is 
a tortuous vessel and the area of
stenosis in the LAD caliber diminishes to a small caliber, 
estimated < 2.0 mm
The Diagonal, arising from the proximal segment, is a medium 
caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. There is a 90% stenosis
in the proximal segment.
Name: ___ MRN: ___ Study Date: ___ 15:29:50 p. 
___
The ___ Obtuse Marginal, arising from the proximal segment, is a 
medium caliber vessel.
The ___ Obtuse Marginal, arising from the mid segment, is a 
medium caliber vessel.
RI: The Ramus Intermedius, which arises from the LM, is a medium 
caliber vessel. There is a 50%
stenosis in the proximal segment.
The Superior lateral of the RI, arising from the mid segment, is 
a medium caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a medium caliber vessel. There is a
50% stenosis in the proximal segment.
The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel.
The Right Posterolateral Artery, arising from the distal 
segment, is a medium caliber vessel.
Interventional Details
Percutaneous Coronary Intervention: Percutaneous coronary 
intervention (PCI) was performed on an ad
hoc basis based on the coronary angiographic findings from the 
diagnostic portion of this procedure. A 6
___ EBU3.5 guide provided adequate support. Crossed with a 
Prowater wire into the distal LCx.
Predilated with a 2.0 mm balloon and then deployed a 2.75mm x 
15mm DES. Postdilated with a
2.75mm balloon in the proximal segment of the stent upto 18 ATM. 
Final angiography revealed normal
flow, no dissection and 0% residual stenosis.
Sedation
The procedure was not feasible without moderate sedation. Risks, 
benefits and alternatives were
discussed and informed consent obtained. With rhythm, blood 
pressure and oxygen saturation monitors,
constant nursing observation, and direct attending supervision, 
the patient received an appropriate level
of sedation (see medication list ). The attending was at the 
bedside continuously for 54 min during
sedation. The patient was subsequently observed with serial 
examinations until the return of pre-sedation
mental status.
Complications
There were no clinically significant complications.
Findings
• Two vessel coronary artery disease, the proximal LCx appears 
to be the clinical culprit lesion
(the stenosis in the LAD is in the mid to distal segment and the 
caliber of the LAD is
significantly diminished at this level)
• Successful PCI of the proximal LCx with a 2.75 x 15 mm DES
Name: ___ MRN: ___ Study Date: ___ 15:29:50 p. 
___
Recommendations
• ASA 81 + ___ 75mg/day for min of 12 months post PCI
• Secondary prevention of CAD
• Further recommendations as per inpatient Cardiology service

 
Brief Hospital Course:
___ with prior history of hypertension, uncontrolled T2DM (A1c 
9.5 in ___ -> 7.0 in ___, erectile dysfunction, presenting 
with four days of substernal / left-sided chest pain which was 
also radiating into left arm, found to have elevated troponin 
c/f type I NSTEMI.

TRANSITIONAL ISSUES
===================
[ ] New medications:
- aspirin 81, clopidogrel 75mg daily (DAPT)
- metoprolol succinate XL 25mg daily
- atorvastatin 80mg qHS

[ ] Patient underwent coronary catheterization on ___ and 
a single DES was placed in the proximal LCx
[ ] Patient with elevated triglycerides on lipid panel, ___ 173. 
Would consider agent to lower triglycerides.
[ ] HA1C slightly elevated to 6.5%.
[ ] Patient needs an echocardiogram to assess LV function. 
Inpatient team has tried to schedule this for you as soon as 
possible in the ___ office.
[ ] Patient to schedule appointment with PCP one week after 
discharge and with Cardiology in ___ weeks. He was provided with 
contact information.

ACTIVE ISSUES
==============
# NSTEMI
Patient with cardiac risk factors admitted for EKG concerning 
for ischemia and elevated troponins. He was given a full 
strength aspirin and started on a heparin gtt until the time of 
cardiac catheterization. He was taken to the Catheterization Lab 
on ___ and 1 DES was placed in the LCx, with right radial 
access. There was also some diffuse CAD in other smaller vessels 
which we will manage medically. There were no complications from 
the procedure. The patient was initiated on aspirin and 
clopidogrel upon discharge. He will have a TTE as an outpatient 
soon after discharge.

# ASCVD (risk ___
New medications:
- metoprolol XL 25mg. 
- atorvastatin 80mg. 

# dyslipidemia
Patient noted to have A1C 6.5. Also, he was noted to have 
elevated lipids with elevated triglycerides in particular. He 
was initiated on a high dose statin. He will benefit from 
ongoing close management of his cardiac risk factors.

#CODE: Full Presumed
#CONTACT: ___

  

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. MetFORMIN XR (Glucophage XR) 500 mg PO BID 
2. Lisinopril 20 mg PO DAILY 
3. dulaglutide 0.75 mg/0.5 mL subcutaneous 1X/WEEK 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
3.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
5.  dulaglutide 0.75 mg/0.5 mL subcutaneous 1X/WEEK  
6.  Lisinopril 20 mg PO DAILY  
7.  MetFORMIN XR (Glucophage XR) 500 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Non-ST elevation Myocardial Infarction

SECONDARY DIAGNOSIS
===================
Hypertension
Type 2 Diabetes Mellitus
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___!

Why was I hospitalized?
=======================
You came to the hospital with chest pain.

What happened to me while I was in the hospital?
=================================================
You were monitored on continuous cardiac monitoring.

You went for a coronary angiogram. There was a blockage in one 
of the arteries to the heart that we believe was causing your 
symptoms. A stent was placed in the artery to allow for improved 
blood flow.

You were started on medication to prevent a clot in the blood 
vessels of the heart. It is very important that you do NOT miss 
___ day of ___ (clopidogrel).

Your other medications were adjusted for a better regimen of 
medications to protect your heart.

What should I do when I am discharged from the hospital?
==========================================================
Please make sure to take all of your medications as prescribed. 
Please make sure to go to all of your doctor's appointments.

We wish you the best! Best wishes for a wonderful new year!

Your ___ Care team
 
Followup Instructions:
___